US06462198B1
9H-Xanthene-9-carboxylic acid [1,3,4]oxadiazol-2-ylamide.
The title compound, white solid, m.p. 239-240° C. and MS: m/e=293 (M+) was prepared in accordance with the general method of example 44a from [1,3,4]oxadiazol-2-ylamine and 9-xanthene-carboxylic acid chloride. The [1,3,4]oxadiazol-2-ylamine, white solid, MS: m/e=85 (M+) used in the above reaction was prepared in accordance with the general method of example 44b from formic acid hydrazide and cyanogen bromide.

reactant | [1,3,4]oxadiazol-2-ylamine | O1C(=NN=C1)N | C2H3N3O
reactant | 9-xanthene-carboxylic acid chloride | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)Cl | C14H9ClO2
product | 9H-Xanthene-9-carboxylic acid [1,3,4]oxadiazol-2-ylamide | O1C(=NN=C1)NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C16H11N3O3
